US08669266B2
(i) 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 1 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid and 1.7 g of 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester trifluoroacetate in 15 ml of DMF, 566 mg of NEM, 753 mg of HOBT and 943 mg of EDC was added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was precipitated from a mixture of n-heptane and ethyl acetate. The precipitated product was collected by filtration and dried under reduced pressure. The isolated product was pure enough for the next reaction step. Yield: 1.8 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | 1 g | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
reactant | 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester trifluoroacetate | 1.7 g | FC(C(=O)O)(F)F.C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)N)=O
reactant | HOBT | 753 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 943 mg
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C29H34N4O6
